2147-11-21 07:38:00 Physician Resident Progress Note
Chief Complaint: Pleuritic [**7-27**] CP radiating to neck, requiring q3
   dilaudid (1-3mg), now 20mg oxycontin q12, denies SOB, N/V/D.
   24 Hour Events:
   Pericardial drainage
 309cc since 3pm yesterday.
   Pt had temp of 100.7 O/N, blood, urine cultures were sent.
   Sinus Tachycardia to low 100s O/N
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   ASA 81mg po daily
   Quinapril 20 mg PO BID
   NIFEdipine CR 90 mg PO DAILY
   Triamterene-Hydrochlorothiazide 1 CAP PO DAILY
   Gemfibrozil 600 mg PO BID
   MVI 1 tab daily
   Heparin Sodium (Prophylaxis)
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-11-21**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.6
C (97.8
   HR: 87 (75 - 105) bpm
   BP: 135/74(88) {110/62(74) - 159/91(105)} mmHg
   RR: 16 (14 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
                  Total In:
                                                                    630 mL
                                                                    120 mL
   PO:
                                                                    630 mL
                                                                    120 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,949 mL
                                                                    460 mL
   Urine:
                                                                  1,100 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
                                                                    849 mL
                                                                    160 mL
   Balance:
                                                                 -1,319 mL
                                                                   -340 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   GENERAL: WDWN, NAD. A+Ox3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. MMM
   NECK: Supple with JVP of 8 cm.
   CARDIAC: RRR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Drainage site C,D,I, non erythematous. Soft, NTND. No HSM or
   tenderness. Abd aorta not enlarged by palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits, hematomas, dressing C,D,I.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: DP 2+ PT 2+
   Left: DP 2+ PT 2+
   Labs / Radiology
   253 K/uL
   12.7 g/dL
   127 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.5 mEq/L
   14 mg/dL
   102 mEq/L
   135 mEq/L
   33.5 %
   10.2 K/uL
        [image002.jpg]
                             [**2147-11-20**]  03:16 PM
                             [**2147-11-20**]  09:41 PM
                             [**2147-11-21**]  05:19 AM
   WBC
   6.0
   10.2
   Hct
   35.1
   35.5
   33.5
   Plt
   283
   253
   Cr
   0.7
   0.8
   Glucose
   130
   127
   Other labs: PT / PTT / INR:14.7/27.9/1.3, ALT / AST:34/23, Alk Phos / T
   Bili:62/0.4, LDH:153 IU/L, Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   58 y/o male with HTN and hyperlipidemia now with idiopathic pericardial
   effusion now s/p pericardiocentesis today with placement of pericardial
   drain.
   # Pericardial effusion - Unclear etiology at this time. DDx includes
   infectious (viral), connective tissue disease, infiltrative disease or
   malignancy. Pericardial fluid was sent for analysis including cytology,
   chemistries, cultures, afb and gram stain. No symptoms and no systemic
   complaints to suggest connective tissue disease. EKG w/ conduction
   delay suggests possible myocardial involvement, no evidence of
   infiltrative disease on TTE. Old CXR suggests possible chronic lung
   disease.
   - Monitor drain output
   - repeat TTE tomorrow, if no accumulation of fluid will likely pull
   drain
   - monitor hemodynamics
   - FU CXR, possible CT as outpt
   .
   # Pain Control
   -OxycodoneSR 20mg q12h
   -Dilaudid 1-3mg q 3hr
   -Toradol
   # HTN
   - continue outpatient meds
   .
   # Hyperlipidemia
   - continue home meds
   .
   # FEN
   - cardiac healthy diet
   .
   # Access: PIV
   .
   # Code: Full Code
   .
   # Dispo - If no re-accumulation of fluid will likely pull drain today.
   Pending TTE, pain control, transfer to floor vs DC to home.

2147-11-22 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Pericardial Effusion
   24 Hour Events:
   Patient had 450 out of line since [**11-20**].  Pt had dropped 02 sats to
   90%RA, placed on 02 and resolved with IS.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2147-11-21**] 10:00 PM
   Hydromorphone (Dilaudid) - [**2147-11-22**] 05:35 AM
   Other medications:
   APAP 500 po q6hrs prn
   ASA 81mg
   MVI
   Colace 100mg [**Hospital1 **]
   Oxycontin 20mg q12hrs
   Ketorolac 15mg IV q8hrs prn
   Nifedipine 90mg daily
   Quinapril 20mg [**Hospital1 **]
   Maxide daily
   Heparin 500 u TID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-11-22**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.3
C (99.2
   HR: 79 (76 - 97) bpm
   BP: 102/55(66) {90/54(63) - 139/78(94)} mmHg
   RR: 15 (12 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
                  Total In:
                                                                    770 mL
                  PO:
                                                                    770 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,333 mL
                                                                    350 mL
   Urine:
                                                                  1,925 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
                                                                    408 mL
                                                                     50 mL
   Balance:
                                                                 -1,563 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   Physical Examination
   GENERAL: WDWN, NAD. A+Ox3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. MMM
   NECK: Supple with JVP of 8 cm.
   CARDIAC: RRR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Drainage site C,D,I, non erythematous. Soft, NTND. No HSM or
   tenderness. Abd aorta not enlarged by palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits, hematomas, dressing C,D,I.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: DP 2+ PT 2+
   Left: DP 2+ PT 2+
   Labs / Radiology
   250 K/uL
   12.0 g/dL
   118 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.9 mEq/L
   18 mg/dL
   102 mEq/L
   135 mEq/L
   32.4 %
   8.4 K/uL
        [image002.jpg]
                             [**2147-11-20**]  03:16 PM
                             [**2147-11-20**]  09:41 PM
                             [**2147-11-21**]  05:19 AM
                             [**2147-11-22**]  05:06 AM
   WBC
   6.0
   10.2
   8.4
   Hct
   35.1
   35.5
   33.5
   32.4
   Plt
   [**Telephone/Fax (3) 2379**]
   Cr
   0.7
   0.8
   1.0
   Glucose
   130
   127
   118
   Other labs: PT / PTT / INR:14.7/27.9/1.3, ALT / AST:34/23, Alk Phos / T
   Bili:62/0.4, LDH:153 IU/L, Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   58 y/o male with HTN and hyperlipidemia now with idiopathic pericardial
   effusion now s/p pericardiocentesis today with placement of pericardial
   drain.
   # Pericardial effusion - Unclear etiology at this time. DDx includes
   infectious (viral), connective tissue disease, infiltrative disease or
   malignancy. Pericardial fluid was sent for analysis including cytology,
   chemistries, cultures, afb and gram stain. No symptoms and no systemic
   complaints to suggest connective tissue disease. EKG w/ conduction
   delay suggests possible myocardial involvement, no evidence of
   infiltrative disease on TTE. Old CXR suggests possible chronic lung
   disease.
   - Monitor drain output
   - repeat TTE tomorrow, if no accumulation of fluid will likely pull
   drain
   - monitor hemodynamics
   - FU CXR, possible CT as outpt
   .
   # Pain Control
   -OxycodoneSR 20mg q12h
   -Dilaudid 1-3mg q 3hr
   -Toradol
   # HTN
   - continue outpatient meds
   .
   # Hyperlipidemia
   - continue home meds
   .
   # FEN
   - cardiac healthy diet
   .
   # Access: PIV
   .
   # Code: Full Code
   .
   # Dispo - If no re-accumulation of fluid will likely pull drain today.
   Pending TTE, pain control, transfer to floor vs DC to home.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-11-20**] 01:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
             IV access: Peripheral line Order date: [**11-20**] @ 1349
   10. Ketorolac 15 mg IV Q8H:PRN Duration: 3 Days Order date: [**11-21**] @
   0948
   2. Acetaminophen 500 mg PO Q6H:PRN
   Do not exceed 4gm per day.   Order date: [**11-20**] @ 1809
   11. Multivitamins 1 TAB PO DAILY  Order date: [**11-20**] @ 1357
   3. Aspirin 81 mg PO DAILY  Order date: [**11-20**] @ 1533
   12. NIFEdipine CR 90 mg PO DAILY
   Please hold for SBP < 100 and HR < 60.  Order date: [**11-20**] @ 1408
   4. Docusate Sodium 100 mg PO BID  Order date: [**11-21**] @ 0915
   13. Oxycodone SR (OxyconTIN) 20 mg PO Q12H
   Hold for sedation, rr < 12  Order date: [**11-21**] @ 0630
   5. Gemfibrozil 600 mg PO BID  Order date: [**11-20**] @ 1408
   14. Potassium Chloride 40 mEq PO ONCE Duration: 1 Doses
   Hold for K >  Order date: [**11-21**] @ 0849
   6. HYDROmorphone (Dilaudid) 1-3 mg IV Q3H:PRN beakthrough pain
   Hold for sedation, RR < 12  Order date: [**11-21**] @ 0630
   15. Quinapril 20 mg PO BID
   Please hold for SBP < 100.  Order date: [**11-20**] @ 1408
   7. Heparin Flush (10 units/ml) [**2-20**] mL IV Q4H:PRN
   Please use for pericardial drain.  Order date: [**11-20**] @ 1524
   16. Senna 1 TAB PO BID:PRN  Order date: [**11-21**] @ 0915
   8. Heparin 5000 UNIT SC TID  Order date: [**11-20**] @ 1533
   17. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**11-20**] @ 1349
   9. Influenza Virus Vaccine 0.5 mL IM ASDIR
   Follow Influenza Protocol Document administration in POE   Order date:
   [**11-20**] @ 1344
   18. Triamterene-Hydrochlorothiazide 1 CAP PO DAILY
   Please hold for SBP < 100.  Order date: [**11-20**] @ 1408